US04242518
1.6 parts of 3-hydroxy-dihydrothiophene-4-carboxylic acid methyl ester are introduced into 15 parts by volume of carbon tetrachloride and the mixture is cooled to 0° C. 1.78 parts of N-bromosuccinimide are added in portions over 30 minutes and the mixture is kept for one hour at 0° C. The end product is isolated from the reaction mixture analogously to Example 5c. 1.2 parts (76% of theory) of 3-hydroxythiophene-4-carboxylic acid methyl ester of melting point 40°-43° C. are obtained.

reactant | 3-hydroxy-dihydrothiophene-4-carboxylic acid methyl ester | COC(=O)C=1C(CSC1)O | C6H8O3S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-hydroxythiophene-4-carboxylic acid methyl ester | 76% | COC(=O)C=1C(=CSC1)O | C6H6O3S
